US07723347B2
N-1H-Pyrrolo[2,3-b]pyridin-4-ylbenzene-1,4-diamine
36 mg of 10% palladium-on-carbon are added to a solution of 170 mg (0.67 mmol) of N-(4-nitrophenyl)-1H-pyrrolo[2,3-b]pyridine-4-amine in 6 ml of ethanol, and the suspension is stirred in a hydrogen atmosphere at atmospheric pressure overnight. The suspension is filtered through Celite and the Celite is washed with ethanol. Concentration under reduced pressure gives the target product.

reactant | N-(4-nitrophenyl)-1H-pyrrolo[2,3-b]pyridine-4-amine | 0.67 mmol, 170 mg | [N+](=O)([O-])C1=CC=C(C=C1)NC=1C2=C(N=CC1)NC=C2 | C13H10N4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 36 mg | [Pd] | Pd
product | N-1H-Pyrrolo[2,3-b]pyridin-4-ylbenzene-1,4-diamine | N1C=CC=2C1=NC=CC2NC2=CC=C(C=C2)N | C13H12N4
